US07553840B2
Sixty percent NaH (12 mg, 0.3 mmol) was added to a solution of 2,2,2-trifluoro-1-(2-furan-3-yl-phenyl)-ethanol (54 mg, 0.2 mmol) in 10 ml of anhydrous THF. The mixture was stirred for 20 minutes, after which 4,6-dichloro-pyrimidine (30 mg, 0.2 mmol) was added. The mixture was then heated at 70° C. until the reaction was complete. After cooling, 5 ml of water was added to quench the reaction, and ethyl acetate (20 ml) was used to extract the product. The organic layer was dried over sodium sulfate. The solvent was removed by rotovap to give of 67 mg 4-chloro-6-[2,2,2-trifluoro-1-(2-furan-3-yl-phenyl)-ethoxy]-pyrimidine (yield: 94%).

reactant | NaH | 0.3 mmol, 12 mg | [H-].[Na+]
reactant | 2,2,2-trifluoro-1-(2-furan-3-yl-phenyl)-ethanol | 0.2 mmol, 54 mg | FC(C(O)C1=C(C=CC=C1)C1=COC=C1)(F)F | C12H9F3O2
reactant | 4,6-dichloro-pyrimidine | 0.2 mmol, 30 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | water | 5 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-chloro-6-[2,2,2-trifluoro-1-(2-furan-3-yl-phenyl)-ethoxy]-pyrimidine | 67 mg, yield: 94% | ClC1=NC=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C1=COC=C1 | C16H10ClF3N2O2
